US04359420
4.1 g of ethyl α-amino-1,3,4,5-tetrahydro-5-oxo-2H-1,4-benzodiazepin-2-ylidene-acetate are dissolved in 25 ml of ethyl acetate, treated with 3.1 ml (18.1 mmol) of N,N-dimethylformamide diethyl acetal and heated to boiling under reflux for 0.5 hour. After cooling, the separated material is filtered off under suction and recrystallised from ethanol. After chromatography of the mother liquor, there is obtained a second portion of ethyl 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate of the same purity; melting point 166°-168° C.

reactant | ethyl α-amino-1,3,4,5-tetrahydro-5-oxo-2H-1,4-benzodiazepin-2-ylidene-acetate | 4.1 g | NC(C(=O)OCC)=C1NC2=C(C(NC1)=O)C=CC=C2 | C13H15N3O3
reactant | N,N-dimethylformamide diethyl acetal | 18.1 mmol, 3.1 ml | C(C)OC(N(C)C)OCC | C7H17NO2
reactant | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | ethyl 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate | CN1CC=2N(C3=C(C1=O)C=CC=C3)C=NC2C(=O)OCC | C15H15N3O3
